Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])=[O:9],2.93656323473
[C:1]#[C:2][C:3]([H:4])([H:5])[C:10]([H:8])[H:11].[C:6]([H:7])#[C:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.634135931009999
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[H:8],5.3259404817
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[O:9][C:10]([H:11])([H:12])[H:13],4.400746139330001
[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.5512014932499998
[O:1]=[C:2]1[C:3](=[C:4][H:5])[C:6]1([H:7])[H:8]>>[O:1]=[C:2][C:6]([C:3]#[C:4][H:5])([H:7])[H:8],-1.0084928864799998
[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.9272316054
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13],0.7842206004410001
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-2.44252720753
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],1.87943181197
[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[O:9]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.42486855788
[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.36627276486
[H:8].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],-3.9517265079300015
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@@:3]([H:4])([O:5])[C:13]([H:14])([H:15])[H:16],3.61865112238
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.68415809
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4],4.98807534857
[C:7]([H:8])[H:9].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.69322517939
[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-8.008402792230001
[C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.449901676730001
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4][H:5],6.10893715
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9][H:10],5.11924595133
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6](=[O:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:8].[O:7],5.6878983175199975
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.261947086619998
[H:1][O:2][C:3]([C:4][O:5][H:6])[C:10](=[C:7]([H:8])[H:9])[H:11]>>[H:1][O:2][C:3]1=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]1[H:11],-0.66276647507
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],5.31653387047
[C:3][H:4].[H:1][C:2]([H:5])[C:6]#[C:7][H:8]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-4.28111362049
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.019742988469998
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.2390632476
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.40996177797
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]#[C:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]#[C:7][H:8],-3.9188175348800014
[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:1]([O:3][H:4])[H:6].[C:2]#[C:5][O:7][H:8],3.5813361671099995
